*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.20e-03[uF]/50[V]
* Murata P/N :GRM155R71H122KA01
* Property : C = 1.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H122KA01 Port1 Port2
C01 Port1 N01 1.14e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.45e-10
R03 N02 N03 2.55e-01
C04 N03 N04 6.60e-08
R04 N03 N04 9.51e+04
C05 N04 N05 2.09e-07
R05 N04 N05 1.51e+03
C06 N05 N06 1.80e-07
R06 N05 N06 1.99e+02
C07 N06 N07 1.37e-07
R07 N06 N07 2.50e+01
C08 N07 N08 1.22e-07
R08 N07 N08 2.80e+00
C09 N08 N09 6.62e-08
R09 N08 N09 8.62e-01
C10 N09 N10 1.66e-08
R10 N09 N10 3.18e-01
L11 N10 N11 2.40e-11
R11 N10 N11 3.47e-01
C12 N11 N12 5.67e-10
L12 N11 N12 1.94e-11
R12 N11 N12 1.79e-01
C13 N12 Port2 1.82e-12
L13 N12 Port2 1.65e-10
R13 N12 Port2 2.21e+01
.ENDS GRM155R71H122KA01
