*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.20e-02[uF]/50[V]
* Murata P/N :GRM155R71H123KA12
* Property : C = 1.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H123KA12 Port1 Port2
C01 Port1 N01 1.13e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 2.19e-10
R03 N02 N03 6.98e-02
C04 N03 N04 2.14e-06
R04 N03 N04 8.58e+02
C05 N04 N05 1.95e-06
R05 N04 N05 1.90e+02
C06 N05 N06 1.99e-06
R06 N05 N06 3.48e+01
C07 N06 N07 1.77e-06
R07 N06 N07 7.39e+00
C08 N07 N08 1.38e-06
R08 N07 N08 1.60e+00
C09 N08 N09 9.21e-07
R09 N08 N09 3.65e-01
C10 N09 N10 6.59e-07
R10 N09 N10 6.15e-02
L11 N10 N11 1.01e-10
R11 N10 N11 5.57e+00
L12 N11 N12 3.37e-11
R12 N11 N12 8.30e-02
L13 N12 N13 2.15e-11
R13 N12 N13 5.84e-02
C14 N13 N14 2.65e-07
L14 N13 N14 2.26e-12
R14 N13 N14 9.32e-03
C15 N14 Port2 1.52e-08
L15 N14 Port2 1.38e-11
R15 N14 Port2 3.25e-02
.ENDS GRM155R71H123KA12
