*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/3.90e-04[uF]/50[V]
* Murata P/N :GRM155R71H391KA01
* Property : C = 3.90e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H391KA01 Port1 Port2
C01 Port1 N01 3.83e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.11e-10
R03 N02 N03 4.20e-01
C04 N03 N04 3.46e-08
R04 N03 N04 7.94e+04
C05 N04 N05 5.50e-08
R05 N04 N05 3.89e+03
C06 N05 N06 5.82e-08
R06 N05 N06 3.55e+02
C07 N06 N07 4.82e-08
R07 N06 N07 4.68e+01
C08 N07 N08 3.61e-08
R08 N07 N08 7.98e+00
C09 N08 N09 2.10e-08
R09 N08 N09 1.69e+00
C10 N09 N10 7.23e-09
R10 N09 N10 6.67e-01
C11 N10 N11 2.65e-09
R11 N10 N11 2.93e-01
L12 N11 N12 9.71e-11
R12 N11 N12 3.30e+00
C13 N12 N13 9.05e-10
L13 N12 N13 7.00e-12
R13 N12 N13 1.51e-01
C14 N13 Port2 2.01e-12
L14 N13 Port2 1.75e-10
R14 N13 Port2 1.72e+01
.ENDS GRM155R71H391KA01
