*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/5.60e-04[uF]/50[V]
* Murata P/N :GRM155R71H561KA01
* Property : C = 5.60e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H561KA01 Port1 Port2
C01 Port1 N01 5.73e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.51e-10
R03 N02 N03 3.40e-01
C04 N03 N04 1.20e-07
R04 N03 N04 2.29e+04
C05 N04 N05 9.77e-08
R05 N04 N05 1.44e+04
C06 N05 N06 8.50e-08
R06 N05 N06 1.35e+03
C07 N06 N07 7.63e-08
R07 N06 N07 1.41e+02
C08 N07 N08 6.68e-08
R08 N07 N08 1.62e+01
C09 N08 N09 4.92e-08
R09 N08 N09 3.24e+00
C10 N09 N10 2.06e-08
R10 N09 N10 9.65e-01
C11 N10 N11 4.35e-09
R11 N10 N11 4.06e-01
L12 N11 N12 4.91e-11
R12 N11 N12 2.59e+00
C13 N12 N13 5.01e-11
L13 N12 N13 5.36e-11
R13 N12 N13 1.09e+00
C14 N13 Port2 2.09e-12
L14 N13 Port2 1.22e-10
R14 N13 Port2 1.25e+01
.ENDS GRM155R71H561KA01
