*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/5.60e-03[uF]/50[V]
* Murata P/N :GRM155R71H562KA88
* Property : C = 5.60e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H562KA88 Port1 Port2
C01 Port1 N01 5.62e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.92e-10
R03 N02 N03 1.03e-01
C04 N03 N04 5.28e-07
R04 N03 N04 5.87e+03
C05 N04 N05 7.85e-07
R05 N04 N05 3.08e+02
C06 N05 N06 7.24e-07
R06 N05 N06 3.38e+01
C07 N06 N07 5.52e-07
R07 N06 N07 4.41e+00
C08 N07 N08 5.09e-07
R08 N07 N08 6.71e-01
C09 N08 N09 1.22e-06
R09 N08 N09 1.30e-01
C10 N09 N10 2.22e-07
R10 N09 N10 1.02e-01
L11 N10 N11 4.14e-11
R11 N10 N11 9.35e-01
C12 N11 N12 6.81e-10
L12 N11 N12 5.26e-11
R12 N11 N12 1.16e-01
C13 N12 Port2 3.40e-12
L13 N12 Port2 1.07e-10
R13 N12 Port2 1.25e+01
.ENDS GRM155R71H562KA88
