*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/4.70e-02[uF]/50[V]
* Murata P/N :GRM155R61H473ME19
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61H473ME19 Port1 Port2
C01 Port1 N01 4.50e-08
R01 Port1 N01 1.06e+09
L02 N01 N02 1.81e-10
R03 N02 N03 1.69e-02
C04 N03 N04 7.59e-06
R04 N03 N04 4.20e+02
C05 N04 N05 1.25e-05
R05 N04 N05 4.30e+01
C06 N05 N06 1.28e-05
R06 N05 N06 5.66e+00
C07 N06 N07 1.07e-05
R07 N06 N07 1.18e+00
C08 N07 N08 7.95e-06
R08 N07 N08 1.97e-01
C09 N08 N09 6.31e-06
R09 N08 N09 3.28e-02
L10 N09 N10 1.43e-11
R10 N09 N10 1.73e-01
L11 N10 N11 9.35e-11
R11 N10 N11 9.20e-02
C12 N11 N12 1.91e-07
L12 N11 N12 1.97e-11
R12 N11 N12 1.74e-02
C13 N12 N13 1.71e-07
L13 N12 N13 1.28e-11
R13 N12 N13 2.10e-02
C14 N13 Port2 4.01e-12
L14 N13 Port2 7.84e-11
R14 N13 Port2 2.21e+01
.ENDS GRM155R61H473ME19
