*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/8.20e-01[uF]/6.3[V]
* Murata P/N :GRM155R60J824KE19
* Property : C = 8.20e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R60J824KE19 Port1 Port2
C01 Port1 N01 8.11e-07
R01 Port1 N01 6.10e+07
L02 N01 N02 1.83e-10
R03 N02 N03 8.06e-03
C04 N03 N04 5.48e-05
R04 N03 N04 7.25e+01
C05 N04 N05 7.98e-05
R05 N04 N05 7.25e+00
C06 N05 N06 9.83e-05
R06 N05 N06 7.95e-01
C07 N06 N07 1.94e-04
R07 N06 N07 9.13e-02
C08 N07 N08 1.32e-04
R08 N07 N08 3.62e-02
C09 N08 N09 6.66e-05
R09 N08 N09 7.88e-03
L10 N09 N10 1.94e-11
R10 N09 N10 1.55e-01
L11 N10 N11 3.57e-11
R11 N10 N11 5.23e-02
L12 N11 N12 1.46e-10
R12 N11 N12 2.62e-02
C13 N12 N13 1.46e-06
L13 N12 N13 4.05e-11
R13 N12 N13 6.62e-03
C14 N13 Port2 1.85e-11
L14 N13 Port2 1.81e-11
R14 N13 Port2 3.21e+00
.ENDS GRM155R60J824KE19
